US04228168
10 g of N-isobutyl-tryptamine (i.e., 3-(2-isobutylaminoethyl)-indole) and 9.1 g of 4-methoxycarbonylbutyryl chloride were treated in the same manner as described in Example 1. 11.23 g of N-isobutyl-N-(4-methoxycarbonylbutyl)-tryptamine (i.e., 3-[2-(N-isobutyl-4-methoxycarbonylbutanamido)ethyl]-indole) were thereby obtained. Yield: 70.5%

reactant | N-isobutyl-tryptamine | 10 g | C(C(C)C)NCCC1=CNC2=CC=CC=C12 | C14H20N2
reactant | 4-methoxycarbonylbutyryl chloride | 9.1 g | COC(=O)CCCC(=O)Cl | C6H9ClO3
product | N-isobutyl-N-(4-methoxycarbonylbutyl)-tryptamine | 11.23 g, Yield: 70.5% | C(C(C)C)N(CCC1=CNC2=CC=CC=C12)CCCCC(=O)OC | C20H30N2O2
